US06407096B1
4-(3-(2-naphthoylamino)propyl)-3-oxo-8-(tetrahydropyrane-2-yloxy)-3,4-dihydro-2H-1,4-benzoxazine
A solution of 4-(3-azidopropyl)-3-oxo-8-(tetrahydropyran-2-yloxy)-3,4-dihydro-2H-1,4-benzoxazine (1.0 g) in ethanol (10 ml) was added to a suspension of 10% palladium carbon (containing 50% water) (100 mg) in ethanol (20 ml), and the mixture was stirred at room temperature for 22 hours under a hydrogen atmosphere. The reaction solution was filtered with Celite, and the solvent was distilled off under reduced pressure to obtain a crude amine. The thus-obtained crude amine was dissolved in DMF (10 ml), and 2-naphthalenecarboxylic acid (780 mg) and 1-(3-(dimethylamino)propyl)-3-ethylcarbodiimide hydrochloride (865 mg) were added to the resultant solution, and the mixture was stirred at room temperature for 19 hours. The reaction solution was diluted with ethyl acetate, washed with saturated brine, and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the resultant residue was purified by column chromatography (silica gel:ethyl acetate/n-hexane=3:2) to obtain the object compound (717 mg, yield 55%).

reactant | 4-(3-azidopropyl)-3-oxo-8-(tetrahydropyran-2-yloxy)-3,4-dihydro-2H-1,4-benzoxazine | 1.0 g | N(=[N+]=[N-])CCCN1C(COC2=C1C=CC=C2OC2OCCCC2)=O | C16H20N4O4
reactant | 2-naphthalenecarboxylic acid | 780 mg | C1=C(C=CC2=CC=CC=C12)C(=O)O | C11H8O2
reactant | 1-(3-(dimethylamino)propyl)-3-ethylcarbodiimide hydrochloride | 865 mg | Cl.CN(CCCN=C=NCC)C
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium carbon | 100 mg | [C].[Pd]
product | 4-(3-(2-naphthoylamino)propyl)-3-oxo-8-(tetrahydropyrane-2-yloxy)-3,4-dihydro-2H-1,4-benzoxazine | 717 mg, yield 55% | C1=C(C=CC2=CC=CC=C12)C(=O)NCCCN1C(COC2=C1C=CC=C2OC2OCCCC2)=O | C27H28N2O5
